US04578381
2 Grams of 5-carboxycarbostyril was suspended in 100 ml of methanol, and hydrogen chloride gas was saturated by bubbling into this suspension, then the reaction mixture was refluxed for 3 hours. The reaction mixture was concentrated to be reduced one-half volume of its initial value, and the precipitated crystals were collected by filtration. The crystals were purified by a silica gel column chromatography, and recrystallized from methanol-chloroform to obtain 230 mg of 5-methoxycarbonylcarbostyril in the form of colorless powdery product.

reactant | 5-carboxycarbostyril | C(=O)(O)C1=C2C=CC(NC2=CC=C1)=O | C10H7NO3
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 100 ml | CO | CH4O
product | 5-methoxycarbonylcarbostyril | 230 mg | COC(=O)C1=C2C=CC(NC2=CC=C1)=O | C11H9NO3
